US07276606B2
[6-(1H-Indol-3-yl)-6H-phenanthridin-5-yl]-(4-trifluoromethyl-phenyl)-methanone was prepared from phenanthridine, 4-trifluoromethylbenzoyl chloride, and indole according to GP 2. Yield, 12%. 1H-NMR (CD3OD): δ=6.19 (s, 1H), 6.28 (s, br., 1H), 6.75 (t, br., J≈6.8 Hz, 1H), 7.03-7.11 (m, 2H), 7.14 (t, J=7.6 Hz, 1H), 7.20-7.25 (m, 1H), 7.33-7.51 (m, 5H), 7.52-7.60 (m, 1H), 7.57 (d, J=7.6 Hz, 2H), 7.92 (d, J=7.8 Hz, 1H), 7.99 (s, br., 1H), 8.07 (d, J=7.8 Hz, 1H); (+)-ESI-MS: m/z=469 [M+H]+, 352 [M-indole+H]+.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | 4-trifluoromethylbenzoyl chloride | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | [6-(1H-Indol-3-yl)-6H-phenanthridin-5-yl]-(4-trifluoromethyl-phenyl)-methanone | N1C=C(C2=CC=CC=C12)C1N(C=2C=CC=CC2C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)C(F)(F)F | C29H19F3N2O
